US07741484B2
To a solution of (5-iodo-2-isopropyl-4-methoxy-phenoxy)-acetonitrile (250 g, 0.75 mol) in 500 ml of DMF, t-butoxybis(dimethylamino)methane (167 g, 0.96 mol) was added. The mixture was heated to 100° C. for 4 hours, then cooled to 25° C. to provide a DMF solution of 3,3-bis-dimethylamino-2-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-propionitrile (not isolated). To this solution was added aniline hydrochloride (225 g, 1.7 mol), and the resultant mixture was heated to 100° C. for 11 hours. After cooling to 60° C., 100 ml of isopropanol was added, followed by 1 L of water, at a rate to maintain an internal temperature of 50° C. The resulting slurry was cooled to 20° C. and aged. Precipitated 2-(5-Iodo-2-isopropyl-4-methoxy-phenoxy)-3-phenylamino-acrylonitrile was collected by filtration, washed with isopropanol until the filtrate was colorless, and dried in a vacuum oven (50° C., 24 inches Hg) to give 310 g of 2-(5-Iodo-2-isopropyl-4-methoxy-phenoxy)-3-phenylamino-acrylonitrile, 93% yield: Melting Point: 170° C.; 1HNMR (CDCl3) δ=1.3 (d, 6H), 3.3 (m, 1H), 3.85 (s, 3H), 6.6 (d, 2H), 6.75 (s, 1H), 6.9 (d, 2H), 7.05 (t, 1H), 7.15 (d, 1H), 7.3 (t, 3H)

reactant | (5-iodo-2-isopropyl-4-methoxy-phenoxy)-acetonitrile | 0.75 mol, 250 g | IC=1C(=CC(=C(OCC#N)C1)C(C)C)OC | C12H14INO2
reactant | t-butoxybis(dimethylamino)methane | 0.96 mol, 167 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 3,3-bis-dimethylamino-2-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-propionitrile | CN(C(C(C#N)OC1=C(C=C(C(=C1)I)OC)C(C)C)N(C)C)C | C17H26IN3O2
